US05100900
Ethyl 2-methyl-4-(3-phenyl-quinolin-5-yl)-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]-pyridine-3-carboxylate
1.4 g (6.0 mmol) of 3-phenylquinoline-5-aldehyde in 20 ml of ethanol are boiled with 0.79 ml (6.2 mmol) of ethyl acetate and 1.16 g (6.2 mmol) of ethyl 3-amino-4-acetoxycrotonate for 2 days. The mixture is cooled and concentrated. The residue is coarsely purified by flash chromatography. The intermediate obtained is boiled in a solution of 970 mg of potassium hydroxide in 50 ml of methanol for 40 minutes. The mixture is cooled, adjusted to pH 5 with 10% strength hydrochloric acid and concentrated, the residue is taken up in ethyl acetate and the solution is washed with water. The organic phase is dried and concentrated. The residue is freed from by-products by column chromatography, and the fractions are concentrated and crystallized from acetonitrile. 460 mg of colorless crystals of melting point 257-260° C. are obtained.

reactant | 3-phenylquinoline-5-aldehyde | 6.0 mmol, 1.4 g | C1(=CC=CC=C1)C=1C=NC=2C=CC=C(C2C1)C=O | C16H11NO
reactant | ethyl acetate | 6.2 mmol, 0.79 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl 3-amino-4-acetoxycrotonate | 6.2 mmol, 1.16 g | N\C(=C/C(=O)OCC)\COC(C)=O | C8H13NO4
reactant | potassium hydroxide | 970 mg | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | methanol | 50 ml | CO | CH4O
product | Ethyl 2-methyl-4-(3-phenyl-quinolin-5-yl)-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]-pyridine-3-carboxylate | 460 mg | CC1=C(C(C2=C(N1)COC2=O)C2=C1C=C(C=NC1=CC=C2)C2=CC=CC=C2)C(=O)OCC | C26H22N2O4
